Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
Loop Recorder Interrogation
 
History of Present Illness:
___ M w/ PMHx of paroxysmal atrial fibrillation, T2DM, HTN, HLD 
presents with syncope. Patient notably w/ multiple syncopal 
episodes over the last couple years thought to be related to 
a-fib w/ RVR for which he had implantable loop recorder placed 
in ___. He was walking around his house on morning of 
admission, when he said he did a "pirouette" and fell to the 
floor. Denied head strike. He was noted by his partner to have 
experienced ___ seconds of "epileptiform" jerking while 
unconscious with some deviation of his eyes to the side. He 
awoke unaware of what had happened but was otherwise oriented as 
to place and person. He has had several other episodes of 
syncope in the past but never experienced any "jerking" like 
this. Most other episodes occur w/o any significant prodrome and 
last several seconds before the patient awakens without 
postictal confusion. 

He was then taken to clinic to see his PCP. Per clinic note, 
patient w/ "5 sec episode where he was unresponsive at home in 
AM; refused to go to ER, so friend ___ drove him to office. 
___, LPN, witnessed 5 sec of patient staring unresponsive. He 
was awake, alert, oriented to person and place, said it was late 
___ Some concern for seizure activity though of note pt 
was quite clear and lucid after these episodes. No reported 
incontinence. HR in clinic also noted to be in 120-160s, and the 
patient reported not having taken his dose of metoprolol. He was 
then sent to the ___ ED for further evaluation. 
 
Past Medical History:
HTN
HLD
AF  
Diabetic Neuropathy  
Hyperlipidemia  
Colonic adenoma  
Unconfirmed Parkinsons Disease w/ cognitive decline  
Anxiety  
Left renal oncoytoma  
Restless Leg Syndrome  
OA Knee  
GERD  
Mass of parotid gland  
s/p ankle frx  
Vitreous detachment of right eye  
 
Social History:
___
Family History:
No family history of early MI, arrhythmia,
cardiomyopathies, or sudden cardiac death.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==================================
GENERAL: Pleasant elderly gentleman in NAD. Slightly odd affect.
Comfortably sitting in bed with resting tremor. 
HEENT: NCAT, MMM
NECK: Neck veins flat sitting upright
CARDIAC: Heart sounds distant, irregular rhythm 
LUNGS: CTAB 
ABDOMEN: Soft, NT/ND, BS+ 
EXTREMITIES: WWP, no c/c/e 
PULSES: Distal pulses palpable and symmetric 
NEURO: AAOx3, CN II-XII intact, strength/sensation ___ and
symmetrical in ___

DISCHARGE PHYSICAL EXAM
===================================
VITALS: afeb, BP: 168/107 (122-168/81-107); HR: 64 (63-81); RR:
18, 98% ___   
GENERAL: Pleasant elderly gentleman in NAD. Alert but confused.
Slightly odd affect. Comfortably sitting in bed with resting
tremor. 
HEENT: NCAT, MMM
NECK: Neck veins flat sitting upright. No carotid bruits.
CARDIAC: Heart sounds distant, irregular rhythm, no palpable
thrills.
LUNGS: CTAB no wheezes, rales, rhonchi. 
ABDOMEN: Soft, NT/ND, BS+ 
EXTREMITIES: WWP, no clubbing or edema.
PULSES: Distal pulses palpable and symmetric 
NEURO: AAOx3, CN II-XII intact, strength/sensation ___ and
symmetrical in ___
TELEMETRY: Atrial fibrillation with RVR, A Flutter with ___
second conversion pauses. Currently in sinus rhythm at 64 bpm.

 
Pertinent Results:
ADMISSION LABS:
===================================

___ 02:00PM BLOOD WBC-5.1 RBC-4.95 Hgb-15.3 Hct-45.2 MCV-91 
MCH-30.9 MCHC-33.8 RDW-12.7 RDWSD-42.5 Plt ___
___ 02:00PM BLOOD ___ PTT-29.2 ___
___ 02:00PM BLOOD Glucose-380* UreaN-26* Creat-0.9 Na-136 
K-4.8 Cl-100 HCO3-21* AnGap-15
___ 02:00PM BLOOD Calcium-9.5 Phos-3.5 Mg-2.0
___ 02:00PM BLOOD Lactate-2.2*

DISCHARGE LABS:
====================================

___ 07:15AM BLOOD WBC-5.1 RBC-4.51* Hgb-14.2 Hct-41.9 
MCV-93 MCH-31.5 MCHC-33.9 RDW-13.0 RDWSD-43.8 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-185* UreaN-19 Creat-0.8 Na-144 
K-4.5 Cl-106 HCO3-22 AnGap-16
___ 07:15AM BLOOD Calcium-9.0 Phos-4.1 Mg-1.___ y/o Caucasian male with a history of atrial fibrillation s/p 
loop recorder placed who presents with rapid heart rate and 1 
syncopal episode at home with 2 unresponsive episodes at his 
outpatient clinic in the setting of missing dose of his home 
metoprolol. Loop recorder was interrogated ___, revealed 8 days 
in AT/AF, many short (<30 second) tachycardic episodes from ___, no pauses or bradycardic episodes. No clear cardiac 
etiology for syncope. 

TRANSITIONAL ISSUES:
- Recurrent syncopal episodes may have neurologic etiology. 
Concern for seizures with witnessed report of epileptiform 
movements, recommend follow up with neurologist.
#CODE STATUS: Full (presumed) 
#CONTACT: ___ - ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Escitalopram Oxalate 5 mg PO DAILY 
2. Rivaroxaban 20 mg PO QHS 
3. Enalapril Maleate 5 mg PO QAM 
4. Enalapril Maleate 10 mg PO QPM 
5. Omeprazole 20 mg PO DAILY 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Simvastatin 20 mg PO QPM 
9. glimepiride 2 mg oral QHS 
10. Glargine 24 Units Bedtime

 
Discharge Medications:
1.  Glargine 24 Units Bedtime 
2.  Enalapril Maleate 10 mg PO QPM  
3.  Enalapril Maleate 5 mg PO QAM  
4.  Escitalopram Oxalate 5 mg PO DAILY  
5.  glimepiride 2 mg oral QHS  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  
7.  Metoprolol Succinate XL 50 mg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Rivaroxaban 20 mg PO QHS  
10.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==========================
Syncope

Secondary Diagnoses:
==========================
Atrial Fibrillation/Atrial Flutter
Type 2 IDDM
Hypertension
Hyperlipidemia
Anxiety
Diabetic neuropathy
GERD

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
- You were admitted because you lost consciousness yesterday and 
were found to have a fast and irregular heart rate.

What happened while I was in the hospital?  
-  We reviewed your heart rhythm by checking the loop recorder 
underneath your skin. We did not discover a heart related cause 
to your symptoms.

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up with your primary care physician.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
-Your ___ Healthcare Team  
 
Followup Instructions:
___